US07176242B2
To a stirred solution of 1-(propylamino)isoquinoline-7-carboxylic acid (81 mg, 0.396 mmol) and N,N-diisopropyl ethylamine (3.75 μL, 2.16 mmol) in methylene chloride (5.0 mL) was added HBTU (152 mg, 0.396 mmol) and the reaction stirred for 0.5 h. (2R,3S)-3-Amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (150 mg, 0.36 mmol) was added in one portion and the reaction mixture was stirred under nitrogen for 18 h. The reaction mixture was then diluted with additional methylene chloride and washed with saturated sodium bicarbonate, saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 0–5% methanol/methylene chloride) gave N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1-(propylamino)isoquinoline-7-carboxamide (67 mg) which was characterized as its bis-HCl salt: mp 262° C. dec; ESI MS m/z 547 [M+H]+

reactant | 1-(propylamino)isoquinoline-7-carboxylic acid | 0.396 mmol, 81 mg | C(CC)NC1=NC=CC2=CC=C(C=C12)C(=O)O | C13H14N2O2
reactant | N,N-diisopropyl ethylamine | 2.16 mmol, 3.75 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.396 mmol, 152 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-Amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 0.36 mmol, 150 mg | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1-(propylamino)isoquinoline-7-carboxamide | 67 mg | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C2=CC=C3C=CN=C(C3=C2)NCCC)C=C(C1)F | C32H36F2N4O2
